US08350090B1
4-Hydroxy-2-(3-Benzyloxybenzyl)cyclopent-2-enone (2.1 kg, 7.14 mol) was dissolved in isobutyl methyl ketone (21 L), and vinyl acetate (4.2 kg, 51.16 mol) and Lipase derived from Pseudomonas cepacia (210 g) was added to the solution, and the mixture was stirred at room temperature for 1 day. The reaction mixture was filtered to remove Lipase and the filtrate was evaporated. The resulting residue was dissolved in PhCH3 (20 L), and triphenylphosphine (625 g, 2.38 mol) and AcOH (145 g, 2.41 mol) was added to the solution. Then diisopropylazodicarboxylate (413 g, 2.04 mol) was added to the mixture at 5° C. After the reaction was completed, the reaction mixture was filtered to remove the precipitate and the filtrate was evaporated. The residue was dissolved in EtOAc (5 L) and hexane (5 L) was added. The mixture was stirred at room t temperature overnight. The mixture was filtered to remove the precipitate and the filtrate was evaporated. The residue was purified by chromatography on a silica gel column using hexane-EtOAc as eluent to give the (R)-3-(3-benzyloxybenzyl)-4-oxocyclopent-2-enyl acetate as yellow oil: 1.8 kg (yield: 75%, 97% ee by HPLC using a chiral column)

reactant | 4-Hydroxy-2-(3-Benzyloxybenzyl)cyclopent-2-enone | 7.14 mol, 2.1 kg | OC1C=C(C(C1)=O)CC1=CC(=CC=C1)OCC1=CC=CC=C1 | C19H18O3
reactant | vinyl acetate | 51.16 mol, 4.2 kg | C(C)(=O)OC=C | C4H6O2
reactant | triphenylphosphine | 2.38 mol, 625 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | AcOH | 2.41 mol, 145 g | CC(=O)O | C2H4O2
reactant | diisopropylazodicarboxylate | 2.04 mol, 413 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | isobutyl methyl ketone | 21 L | CC(=O)CC(C)C | C6H12O
product | (R)-3-(3-benzyloxybenzyl)-4-oxocyclopent-2-enyl acetate | yield: 75% | C(C)(=O)O[C@H]1C=C(C(C1)=O)CC1=CC(=CC=C1)OCC1=CC=CC=C1 | C21H20O4
